US08466186B2
(d) 5-Amino-4-(methylamino)-2-(4-trifluoromethyl-piperidin-1-yl)benzonitrile
H2 (1 atm) was passed through a mixture of 4-(methylamino)-5-nitro-2-(4-trifluoromethyl-piperidin-1-yl)benzonitrile (204 mg, 0.62 mmol), Pd/C (66 mg, 0.062 mmol), EtOAc (10 mL) and EtOH (10 mL) at rt for 1 h. The mixture was filtered through celite and concentrated. Crystallization from Et2O/PE gave the sub-title compound.

reactant | 4-(methylamino)-5-nitro-2-(4-trifluoromethyl-piperidin-1-yl)benzonitrile | 0.62 mmol, 204 mg | CNC1=CC(=C(C#N)C=C1[N+](=O)[O-])N1CCC(CC1)C(F)(F)F | C14H15F3N4O2
reactant | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.062 mmol, 66 mg | [Pd] | Pd
solvent | EtOH | 10 mL | CCO | C2H6O
product | 5-Amino-4-(methylamino)-2-(4-trifluoromethyl-piperidin-1-yl)benzonitrile | NC=1C(=CC(=C(C#N)C1)N1CCC(CC1)C(F)(F)F)NC | C14H17F3N4
